US08304419B2
Step E: N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-6-[(2-hydroxyethyl)oxy]-1H-indole-2-carboxamide
HATU (0.070 g, 0.186 mmol) and DIPEA (0.024 mL, 0.186 mmol) were added to a solution 6-[(2-hydroxyethyl)oxy]-1H-indole-2-carboxylic acid (0.041 g, 0.186 mmol) and 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.057 g, 0.186 mmol) in DMF. This solution was stirred 2 h at room temperature. The mixture was partitioned between water and EtOAc, the organic layer was separated, washed with a 15% solution of Na2CO3, dried over MgSO4 and filtered. The EtOAc was evaporated to yield a residue which upon trituration in EtOAc afforded the title compound (0.041 g, 42%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.38 (s, 1H), 8.88 (t, 1H), 7.80 (s, 1H), 7.43-7.53 (m, 4H), 7.37 (t, 1H), 7.08 (s, 1H), 6.85 (s, 1H), 6.68 (d, 1H), 4.83 (t, 1H), 4.53 (d, 2H), 3.94 (t, 2H), 3.71 (q, 2H). MS m/z 512 (M−1).

reactant | HATU | 0.186 mmol, 0.070 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.186 mmol, 0.024 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-[(2-hydroxyethyl)oxy]-1H-indole-2-carboxylic acid | 0.186 mmol, 0.041 g | OCCOC1=CC=C2C=C(NC2=C1)C(=O)O | C11H11NO4
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.186 mmol, 0.057 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
solvent | DMF | CN(C)C=O | C3H7NO
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-6-[(2-hydroxyethyl)oxy]-1H-indole-2-carboxamide | 0.041 g, 42% | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC2=CC(=CC=C2C1)OCCO)F)OC1=CC(=CC(=C1)C#N)Cl | C25H18Cl2FN3O4
